US09302989B2
5-(morpholin-4-ylcarbonyl)-N-[4-(propylcarbamoyl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 1C, substituting morpholine for 3-phenylpropan-1-amine and 2-{[4-(propylcarbamoyl)phenyl]carbamoyl}isoindoline-5-carboxylic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.61 (s, 1H), 8.26 (t, J=5.7 Hz, 1H), 7.80-7.73 (m, 2H), 7.69-7.62 (m, 2H), 7.47-7.41 (m, 2H), 7.35 (dd, J=7.7, 1.6 Hz, 1H), 4.82 (bs, 4H), 3.73-3.43 (m, 6H), 3.28-3.12 (m, 4H), 1.60-1.44 (m, 2H), 0.89 (t, J=7.4 Hz, 3H); MS (ESI(+)) m/e 437 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 2-{[4-(propylcarbamoyl)phenyl]carbamoyl}isoindoline-5-carboxylic acid | C(CC)NC(=O)C1=CC=C(C=C1)NC(=O)N1CC2=CC=C(C=C2C1)C(=O)O | C20H21N3O4
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | 5-(morpholin-4-ylcarbonyl)-N-[4-(propylcarbamoyl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | N1(CCOCC1)C(=O)C=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C24H28N4O4
